US07524871B2
Synthesis of (±)-N-(2-amino-4,5,6,7-tetrahydro-1,3-benzothiazol-6 -yl)2-[3-{[(2-chloro-4-fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)-pyridinyl]acetamide
The title compound was prepared from 2-[3-{[(2-chloro-4 -fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)-pyridinyl]acetic acid and 4,5,6,7-tetrahydro-1,3-benzothiazol-2,6-diamine dihydrobromide using the procedure of EXAMPLE 1 (STEP 6), and was obtained as a white solid compound.

reactant | 2-[3-{[(2-chloro-4 -fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)-pyridinyl]acetic acid | ClC1=C(CS(=O)(=O)NC=2C(N(C(=CC2)C)CC(=O)O)=O)C=CC(=C1)F | C15H14ClFN2O5S
reactant | 4,5,6,7-tetrahydro-1,3-benzothiazol-2,6-diamine dihydrobromide | Br.Br.S1C(=NC2=C1CC(CC2)N)N
product | (±)-N-(2-amino-4,5,6,7-tetrahydro-1,3-benzothiazol-6 -yl)2-[3-{[(2-chloro-4-fluorobenzyl)sulfonyl]amino}-6-methyl-2-oxo-1(2H)-pyridinyl]acetamide | NC=1SC2=C(N1)CCC(C2)NC(CN2C(C(=CC=C2C)NS(=O)(=O)CC2=C(C=C(C=C2)F)Cl)=O)=O | C22H23ClFN5O4S2
